US09315490B2
354c) (3-Cyclopropyl-1-(5-(2-fluorophenyl)pyrimidin-2-yl)-1H-indol-6-yl)(morpholino)methanone
1-Hydroxybenzotriazole monohydrate (60 μmol) and N,N-diisopropylethylamine (400 μmol) in dichloromethane (2 mL) were added to 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid (100 μmol) and N,N-diisopropylethylamine (180 μmol) in dichloromethane (1 mL). EDCxHCl (150 μmol) in dichloromethane (1 mL) was added and the mixture was agitated for 15 min in a shaking device. The appropriate amine (125 μmol) in dichloromethane (1 mL) was then added and the reaction mixture was agitated for 16 h at room temperature. The reaction was quenched by addition of saturated sodium hydrogen carbonate solution (2.5 mL) and shaking was continued for further 30 min. The aqueous layer was separated and extracted with dichloromethane (2×3 mL). The organic layers were combined, the solvent was removed under reduced pressure, and the raw product was purified by preparative HPLC.

reactant | 1-Hydroxybenzotriazole monohydrate | 60 μmol | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 400 μmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid | 100 μmol | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)S(=O)C | C20H14FN3O3S
reactant | N,N-diisopropylethylamine | 180 μmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (3-Cyclopropyl-1-(5-(2-fluorophenyl)pyrimidin-2-yl)-1H-indol-6-yl)(morpholino)methanone | C1(CC1)C1=CN(C2=CC(=CC=C12)C(=O)N1CCOCC1)C1=NC=C(C=N1)C1=C(C=CC=C1)F | C26H23FN4O2
